US04281019
A mixture of 2.25 g. of methyl 4-(allylamino)phenylacetate, 280 mg. of 1,3-propanediol and 1.37 g. p-toluenesulfonic acid is heated at 180° C. for 18 hours and then is partitioned between ether and 3% aqueous sodium carbonate solution. The ether layer is separated, dried, and evaporated to yield 3-hydroxypropyl 4-(allylamino)phenylacetate.

reactant | methyl 4-(allylamino)phenylacetate | C(C=C)NC1=CC=C(C=C1)CC(=O)OC | C12H15NO2
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-hydroxypropyl 4-(allylamino)phenylacetate | C(C=C)NC1=CC=C(C=C1)CC(=O)OCCCO | C14H19NO3
